### ISSUE TITLE
`grind` reaches maximum recursion depth on relatively simple goal

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#13089]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Here is some code:
```lean
module

namespace Char

def flipCase (c : Char) : Char :=
  if c.isLower then
    c.toUpper
  else if c.isUpper then
    c.toLower
  else
    c

@[simp]
theorem toNat_mk' {val : UInt32} {h} : (Char.mk val h).toNat = val.toNat := by
  simp [← toNat_val]

theorem isLower_flipCase {c : Char} : c.flipCase.isLower ↔ c.isUpper := by
  -- This proof works
  grind [flipCase, isUpper, isLower, toUpper, toLower]

theorem toLower_flipCase {c : Char} : c.flipCase.toLower = c.toLower := by
  -- This proof does not work. It fails with `maximum recursion depth has been reached`
  -- grind [flipCase, isUpper, isLower, toUpper, toLower]

  -- This proof works
  simp [flipCase, isUpper, isLower, toUpper, toLower, ← toNat_inj, apply_dite Char.toNat,
    apply_ite Char.toNat, UInt32.le_iff_toNat_le]
  grind

end Char
```

### Context

Discovered during `human-eval-lean`.

### Steps to Reproduce

1. Copy the above code into live.lean-lang.org

**Expected behavior:** `grind [flipCase, isUpper, isLower, toUpper, toLower]` solves the theorem `toLower_flipCase`.

**Actual behavior:** `maximum recursion depth has been reached`

### Versions

`4.30.0-nightly-2026-03-24` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
